US06638964B2
3-Cyano-4-methyl-7-nitro-1H-indole
Into 100 ml of dimethylformamide was dissolved 2.21 g (10.8 mmol) of the compound of Production Example 5 followed by adding 900 mg (13.0 mmol) of hydroxylamine hydrochloride and 1.05 ml (13.0 mmol) of pyridine thereto. After heating at 60° C. under stirring for 40 minutes, 53.9 mmol of 1,1′-carbonyldiimidazole (53.9 mmol) were added to the reaction solution under ice-cooling. After heating at 60° C. for further 30 minutes under stirring, 3.0 ml (21.5 mmol) of triethylamine was added to the reaction solution followed by heating at the same temperature for further 1 hour under stirring. To the reaction mixture was added 50 ml of ice water under ice-cooling followed by extracting with ethyl acetate. The organic layer was washed with water and brine successively, dried over magnesium sulfate and concentrated to dryness. To the resulting residue was added a mixed solution of tert-butyl methyl ether and hexane, and the resulting crystals were collected by filtration to give 1.95 g of the title compound.

reactant | hydroxylamine hydrochloride | 13.0 mmol, 900 mg | Cl.NO
reactant | pyridine | 13.0 mmol, 1.05 ml | N1=CC=CC=C1 | C5H5N
reactant | 1,1′-carbonyldiimidazole | 53.9 mmol | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | triethylamine | 21.5 mmol, 3.0 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-Cyano-4-methyl-7-nitro-1H-indole | 1.95 g | C(#N)C1=CNC2=C(C=CC(=C12)C)[N+](=O)[O-] | C10H7N3O2
